* source TRIAC DIMMER
C_C1         0 N05563  100n  TC=0,0 
V_V1         N00210 0  AC 0
+SIN 0 170 60 0 0 0
X_X2         N00238 N05567 0 T2500D
X_X1         N05563 N05567 SMDB3
R_RL         N00238 N00210  150 TC=0,0 
R_R1         N05563 N10603  1.62k TC=0,0 
X_RP         N00238 N00238 N10603 POT PARAMS: SET=0.0 VALUE=200K
